### PR TITLE
VLSM Projections 2

### PR DESCRIPTION
**Pull request by traiansf**
Defined generalized VLSM projections and showed that several important relations between VLSMs are indeed projections.

This is a manually rebased version of PR #219

### CODE REVIEW

File: VLSM/ByzantineTraces.v [hunk 1]
```diff
@@ -1,6 +1,6 @@
 From CasperCBC.stdpp Require Import base decidable numbers.
 From Coq Require Import FinFun.
-From CasperCBC Require Import Lib.Preamble VLSM.Common VLSM.Composition VLSM.Validating.
+From CasperCBC Require Import Lib.Preamble VLSM.Common VLSMProjections VLSM.Composition VLSM.ProjectionTraces VLSM.Validating.
```
Comment (palmskog) [inline VLSM/ByzantineTraces.v:3]:
```suggestion
From CasperCBC Require Import Lib.Preamble VLSM.Common VLSM.VLSMProjections VLSM.Composition VLSM.ProjectionTraces VLSM.Validating.
```
Since there are files with same name, let's try to always prefix modules with the local path (also in other files).

File: VLSM/Composition.v [hunk 2]
```diff
@@ -794,11 +783,9 @@ If @(sj, om)@ has the [protocol_prop]erty for component and @s@ is the [lift_to_
...
       : protocol_prop free_composite_vlsm (s, om).
     Proof.
-      apply vlsm_is_pre_loaded_with_False_protocol_prop.
-      apply vlsm_is_pre_loaded_with_False_protocol_prop in Hp.
-      remember (fun _ : message => False) as P.
-      apply (protocol_prop_composite_free_lift_generalized_initial P P); [|assumption].
-      intro m. exact id.
+      apply (VLSM_full_projection_protocol_prop (lift_to_composite_vlsm_full_projection j))
+      ; [|assumption].
+      intros.  exists j, (exist _ _ H); reflexivity.
```
Comment (palmskog) [inline VLSM/Composition.v:788]:
```suggestion
      ; [intros|assumption].
      exists j, (exist _ _ H); reflexivity.
```
Small refactoring to get closer to the general rule of thumb to have one sentence per line.

File: VLSM/Equivocators/Common.v [hunk 3]
```diff
@@ -347,6 +347,14 @@ Definition not_equivocating_descriptor
   | _ => False
   end.
 
+Lemma not_equivocating_descriptor_dec : RelDecision not_equivocating_descriptor.
```
Comment (palmskog) [inline VLSM/Equivocators/Common.v:350]:
```suggestion
Local Instance not_equivocating_descriptor_dec : RelDecision not_equivocating_descriptor.
```
To at least get local benefits from the typeclass machinery, if someone edits this file again. We should all try to use the generic `decide P` whenever we can.

File: VLSM/Equivocators/Composition/Common.v [hunk 4]
```diff
@@ -322,6 +342,18 @@ Definition not_equivocating_equivocator_descriptors
     (eqv : equiv_index),
     not_equivocating_descriptor (IM eqv) (eqv_descriptors eqv) (s eqv).
 
+Lemma not_equivocating_equivocator_descriptors_dec
```
Comment (palmskog) [inline VLSM/Equivocators/Composition/Common.v:345]:
```suggestion
Local Instance not_equivocating_equivocator_descriptors_dec
```
Same as above.

File: VLSM/Equivocators/Composition/LimitedEquivocation/LimitedEquivocation.v [hunk 5]
```diff
@@ -714,21 +724,59 @@ Proof.
...
+  apply equivocators_trace_project_app_iff in Hproject.
+  destruct Hproject as [trX [_sufX [_descriptors [_Hpr_suf [Hproject Heq_tr_sufX]]]]].
+  rewrite Hpr_suf in _Hpr_suf. inversion _Hpr_suf. subst _sufX _descriptors. clear _Hpr_suf.
+  subst tr_sufX. apply finite_protocol_trace_from_to_app_split in Htr_sufX.
+  destruct Htr_sufX as [HtrX _].
+  apply not_equivocating_equivocator_descriptors_proper in Horiginal_descriptors as Horiginal_proper.
+  apply ptrace_get_last in Hsuf as Heq_original_state.  subst original_state.
+  specialize
+    (preloaded_equivocators_protocol_trace_project_proper_initial IM s suf
+    ) as Hproper.
```
Comment (palmskog) [inline VLSM/Equivocators/Composition/LimitedEquivocation/LimitedEquivocation.v:749]:
```suggestion
    (preloaded_equivocators_protocol_trace_project_proper_initial IM s suf) 
    as Hproper.
```
Why break the parentheses to a separate line?

File: VLSM/Equivocators/Composition/LimitedEquivocation/LimitedEquivocation.v [hunk 6]
```diff
@@ -1023,4 +1071,58 @@ Proof.
...
+    }
+    apply equivocators_total_trace_project_final_state. assumption.
+  - assert (Hpre_tr : finite_protocol_trace (pre_loaded_with_all_messages_vlsm FreeE) sX trX).
+    { revert H. apply VLSM_incl_finite_protocol_trace.
+      apply equivocators_limited_equivocations_vlsm_incl_preloaded_free.
+    }
+    specialize
+     (VLSM_partial_projection_finite_protocol_trace (limited_equivocators_vlsm_partial_projection (zero_descriptor IM))
+       sX trX (equivocators_state_project IM (zero_descriptor IM) sX) (equivocators_total_trace_project IM trX)
+     ) as Hsim.
```
Comment (palmskog) [inline VLSM/Equivocators/Composition/LimitedEquivocation/LimitedEquivocation.v:1119]:
```suggestion
       sX trX (equivocators_state_project IM (zero_descriptor IM) sX) (equivocators_total_trace_project IM trX))
      as Hsim.
```
Increases readability a bit.

File: VLSM/ProjectionTraces.v [hunk 7]
```diff
@@ -1,7 +1,244 @@
...
 From Coq Require Import Streams FunctionalExtensionality FinFun Eqdep.
 From CasperCBC Require Import Lib.Preamble Lib.StreamExtras Lib.ListExtras.
-From CasperCBC Require Import VLSM.Common VLSM.Composition.
+From CasperCBC Require Import VLSM.Common VLSM.Plans VLSM.Composition VLSMProjections.
+
+Section projections.
+
+(** ** Composite VLSM projections
+
+Let us fix an indexed set of VLSMs <<IM>> and their composition <<X>> using <<constraint>>.
```
Comment (palmskog) [inline VLSM/ProjectionTraces.v:10]: Can you maybe say something about the *goal* of this module/file before getting in to "Let us fix ..."? For example, a sentence summarizing what you are defining and proving.

File: VLSM/ProjectionTraces.v [hunk 8]
```diff
@@ -1,7 +1,244 @@
 From CasperCBC.stdpp Require Import base decidable option numbers list.
 From Coq Require Import Streams FunctionalExtensionality FinFun Eqdep.
 From CasperCBC Require Import Lib.Preamble Lib.StreamExtras Lib.ListExtras.
-From CasperCBC Require Import VLSM.Common VLSM.Composition.
+From CasperCBC Require Import VLSM.Common VLSM.Plans VLSM.Composition VLSMProjections.
+
+Section projections.
+
+(** ** Composite VLSM projections
```
Comment (palmskog) [inline VLSM/ProjectionTraces.v:8]:
```suggestion
(** * Composite VLSM projections
```
This should be a top-level header, *or* it should stay as-is and there should be a top-level header above it.

File: VLSM/ProjectionTraces.v [hunk 9]
```diff
@@ -236,156 +473,143 @@ Proof.
...
-      destruct (vtransition (IM x) lx (s' x, iom)) eqn:Hteq.
-      inversion Ht; subst.
-      rewrite state_update_neq in IHHtr by assumption.
-      apply IHHtr.
-      assumption.
+      simpl. destruct (vtransition _ _ _) as (si', om').
+      inversion Ht. f_equal. symmetry. apply state_update_eq.
+Qed.
+
+Lemma preloaded_component_projection : VLSM_projection (pre_loaded_with_all_messages_vlsm X) (pre_loaded_with_all_messages_vlsm (IM j)) (fun s => s j) finite_trace_projection_list.
```
Comment (palmskog) [inline VLSM/ProjectionTraces.v:597]:
```suggestion
Lemma preloaded_component_projection : VLSM_projection (pre_loaded_with_all_messages_vlsm X)
 (pre_loaded_with_all_messages_vlsm (IM j)) (fun s => s j) finite_trace_projection_list.
```
Let's try to not have too long lines.

File: VLSM/VLSMProjections.v [hunk 10]
```diff
@@ -0,0 +1,1272 @@
+From CasperCBC.stdpp Require Import base.
+From CasperCBC Require Import VLSM.Common.
+From CasperCBC.Lib Require Import Preamble ListExtras.
+
+(**
+* VLSM (partial) projections and inclusions
+*)
```
Comment (palmskog) [inline VLSM/VLSMProjections.v:7]:
```suggestion
(** * VLSM (partial) projections and inclusions *)
```
One-liner is more readable.

File: VLSM/VLSMProjections.v [hunk 11]
```diff
@@ -0,0 +1,1272 @@
...
+
+Section VLSM_partial_projection.
+
+(**
+** VLSM partial projections
```
Comment (palmskog) [inline VLSM/VLSMProjections.v:12]:
```suggestion
(** ** VLSM partial projections
```

**Review by palmskog — APPROVED** [review]
Looks reasonable, but hard to comment on semantics at a high level.

File: VLSM/Composition.v (hunk 2 above)
Comment (traiansf) [reply VLSM/Composition.v:788]: Why is it better to have only one sentence per line?

File: VLSM/Equivocators/Composition/LimitedEquivocation/LimitedEquivocation.v (hunk 5 above)
Comment (traiansf) [reply VLSM/Equivocators/Composition/LimitedEquivocation/LimitedEquivocation.v:749]: I have this (perhaps bad) habit of trying to match indentation between open an closed brackets.

File: VLSM/Composition.v (hunk 2 above)
Comment (palmskog) [reply VLSM/Composition.v]: Most people use shortcuts to step between sentences, and it helps significantly to get visual feedback on a sentence step if we also step between. If you have a line with 12 sentences, it gets really hairy to track where you are.

Also example of one big project where they use this convention: https://github.com/math-comp/math-comp/blob/master/mathcomp/ssreflect/fingraph.v

File: VLSM/VLSMProjections.v [hunk 12]
```diff
@@ -0,0 +1,1269 @@
...
+Qed.
+
+Section VLSM_incl_properties.
+
+Context
+  {message : Type} {vtype : VLSM_type message} {SigX SigY : VLSM_sign vtype} 
+  {MX : VLSM_class SigX} {MY : VLSM_class SigY}
+  (X := mk_vlsm MX)
+  (Y := mk_vlsm MY)
+  (Hincl : VLSM_incl X Y)
```
Comment (bmmoore) [inline VLSM/VLSMProjections.v:758]: It might be better to use `VLSM_incl_part MX MY`. Not sure, but I think this has something to do with sometimes seeing types like `machine (mk_vlsm (....))` in the subgoals resulting from using these lemmas.

**Review by bmmoore — CHANGES_REQUESTED** [review]
There's a typo, some extra requested documentation, and changing how some implicit arguments are declared can let you avoid some of the proof changes.
(I think the proofs are mostly clearer the new way, but it's not good if somebody trying the old way would see mysterious failures. OTOH, using `apply` with a lemma about VLSM_incl without explicitly specifying the other VLSM was sometimes succeeding only by seeing if the starting state of a finite_protocol_trace/finite_protocol_trace_from was of the form `vstate X`)

File: VLSM/VLSMProjections.v [hunk 13]
```diff
@@ -0,0 +1,1269 @@
...
+Qed.
+
+Lemma VLSM_partial_projection_finite_protocol_trace_from
+  : forall sX trX sY trY,
+    trace_project (sX, trX) = Some (sY, trY) ->
+    finite_protocol_trace_from X sX trX -> finite_protocol_trace_from Y sY trY.
+Proof.
+  intros sX trX sY trY Hpr_tr HtrX.
+  apply (finite_protocol_trace_from_complete_left X) in HtrX as Htr'X.
+  destruct Htr'X as [isX [preX [Htr'X HsX]]].
```
[the remark this answers is not in the document]
Comment (traiansf) [reply VLSM/VLSMProjections.v:67]: That's good to know. Thanks!

File: VLSM/VLSMProjections.v [hunk 14]
```diff
@@ -0,0 +1,1269 @@
+From CasperCBC.stdpp Require Import base.
+From CasperCBC Require Import VLSM.Common.
+From CasperCBC.Lib Require Import Preamble ListExtras.
+
+(** * VLSM (partial) projections and inclusions *)
+
+Section VLSM_partial_projection.
+
+(** ** VLSM partial projections
+
```
[the remark this answers is not in the document]
Comment (traiansf) [reply VLSM/VLSMProjections.v:10]: I started thinking about this and it indeed would make a lot of sense as we would eliminate some of the duplication needed to adapt `VLSM_partial_projection` to equivocator context.

However, I'd rather do this as part of a separate PR.

File: VLSM/Equivocators/Composition/Common.v [hunk 15]
```diff
@@ -271,6 +271,26 @@ Definition equivocators_no_equivocations_vlsm
...
+Proof.
+  apply basic_VLSM_incl; intros.
+  - assumption.
+  - apply initial_message_is_protocol. exact I.
+  - split; [|exact I]. apply H.
+  - reflexivity.
+Qed.
+
+Lemma preloaded_equivocators_no_equivocations_vlsm_incl_PreFree
+  : VLSM_incl (pre_loaded_with_all_messages_vlsm equivocators_no_equivocations_vlsm) (pre_loaded_with_all_messages_vlsm equivocators_free_vlsm).
```
[the remark this answers is not in the document]
Comment (traiansf) [reply VLSM/Equivocators/Composition/Common.v:285]: I think we can define a notion of strong basic vlsm inclusion/ full projection which has a stronger correspondence between initial messages, valid, and transitions, and use that to derive VLSM_incl / VLSM_full_projection for both the normal VLSM and their pre-loaded versions. Maybe in some future PR.

**Review by bmmoore — APPROVED** [review]
Looks good
